US07977331B1
To a solution of 4-iodo-3-nitrophenol (5.00 g, 18.9 mmol) in acetone (50 ml) were added potassium carbonate (3.39 g, 24.6 mmol) and benzyl bromide (2.92 ml, 24.6 mmol), and the mixture was stirred at 50° C. for 6 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to give 4-benzyloxy-1-iodo-2-nitrobenzene. The obtained crude product (6.20 g) was used for Step 2 without further purification.

reactant | 4-iodo-3-nitrophenol | 18.9 mmol, 5.00 g | IC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4INO3
reactant | potassium carbonate | 24.6 mmol, 3.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 24.6 mmol, 2.92 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-benzyloxy-1-iodo-2-nitrobenzene | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)I)[N+](=O)[O-] | C13H10INO3
